US08426414B2
Part F. Trans-2-pyrazin-2-yl-cyclopropanecarboxylic acid ((2R,3R)-2-amino-3-methoxy-butyl)-(4′-propyl-biphenyl-4-yl)-amide
A solution of ((1R,2R)-2-methoxy-1-{[(4′-propyl-biphenyl-4-yl)-(trans-2-pyrazin-2-yl-cyclopropanecarbonyl)-amino]-methyl}-propyl)-carbamic acid tert butyl ester (55 mg) in DCM (1 mL) was treated with TFA/DCM (2/2 mL) for 1 h. The mixture was concentrated to give the titled compound as di-TFA salts (65.5 mg). 1H NMR (400 MHz, MeOD) δ ppm 8.5 (d, J=5.3 Hz, 1H), 8.1-8.2 (m, 2H), 7.5 (t, J=8.0 Hz, 2H), 7.4 (dd, J=8.3, 4.5 Hz, 2H), 7.3 (dd, J=8.2, 3.4 Hz, 2H), 7.2 (dd, J=8.1, 1.5 Hz, 2H), 4.2 (ddd, J=14.8, 8.5, 8.3 Hz, 1H), 3.8 (ddd, J=14.7, 7.9, 4.2 Hz, 1H), 3.4 (qd, J=6.1, 5.9 Hz, 1H), 3.2 (s, 3H), 3.2-3.2 (m, 1H), 2.6 (dddd, J=14.8, 6.1, 5.7, 4.2 Hz, 1H), 2.5 (t, J=7.6 Hz, 2H), 2.0 (q, J=8.3 Hz, 1H), 1.7 (dddd, J=8.9, 7.1, 5.6, 3.7 Hz, 1H), 1.6 (d, J=7.6 Hz, 2H), 1.3-1.4 (m, J=8.5, 5.8, 2.9, 2.9 Hz, 1H), 1.1 (dd, J=6.1, 3.0 Hz, 3H), 0.9 (t, J=7.3 Hz, 3H). LRMS (ESI)=459.3, [(M+H)+, Calcd for C28H35N4O2 459.6].

reactant | ((1R,2R)-2-methoxy-1-{[(4′-propyl-biphenyl-4-yl)-(trans-2-pyrazin-2-yl-cyclopropanecarbonyl)-amino]-methyl}-propyl)-carbamic acid tert butyl ester | 55 mg | C(C)(C)(C)OC(N[C@@H]([C@@H](C)OC)CN(C(=O)[C@H]1[C@@H](C1)C1=NC=CN=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)CCC)=O | C33H42N4O4
reactant | TFA DCM | 2 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | Trans-2-pyrazin-2-yl-cyclopropanecarboxylic acid ((2R,3R)-2-amino-3-methoxy-butyl)-(4′-propyl-biphenyl-4-yl)-amide | N[C@H](CN(C(=O)[C@H]1[C@@H](C1)C1=NC=CN=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)CCC)[C@@H](C)OC | C28H34N4O2
